US07368578B2
To a mixture of ethyl [4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl]acetate (0.36 g), tetrahydrofuran (9 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at 50° C. for 1.5 hrs. To the reaction mixture were added 1N hydrochloric acid (1 mL) and water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give [4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl]acetic acid as crystals (0.20 g, yield 58%). Recrystallization from ethyl acetate-hexane gave brown prism crystals. melting point: 146-148° C.

reactant | ethyl [4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl]acetate | 0.36 g | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCCCC1)C1=CC=CC=C1 | C43H45N5O6S
reactant | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | [4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl]acetic acid | 0.20 g, yield 58% | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCCCC1)C1=CC=CC=C1 | C41H41N5O6S
